US09212182B2
This was prepared in a manner analogous to 6-(cyclopropylmethoxy)pyrimidin-4-amine, where propan-1-ol was used as the alcohol. 6-propoxypyrimidin-4-amine (0.201 g, 1.312 mmol, 85% yield) was obtained as a white solid. m/z (ESI) 154.2 (M+H)+.

reactant | 6-(cyclopropylmethoxy)pyrimidin-4-amine | C1(CC1)COC1=CC(=NC=N1)N | C8H11N3O
solvent | propan-1-ol | C(CC)O | C3H8O
product | 6-propoxypyrimidin-4-amine | 1.312 mmol, 0.201 g, 85% yield | C(CC)OC1=CC(=NC=N1)N | C7H11N3O
